US08710065B2
1-methyl-4-(4-nitro-2-(prop-1-en-2-yl)phenyl)piperazine
A mixture of 1-(2-bromo-4-nitrophenyl)-4-methylpiperazine (0.810 g, 2.70 mmol), tetrakis(triphenylphosphine)palladium(0) (0.094 g, 0.081 mmol), and tributyl(prop-1-en-2-yl)stannane (0.983 g, 2.97 mmol) in 1,4-dioxane (30 mL) was degassed and heated at 105° C. overnight. After cooling, the suspension was filtered, concentrated, and purified on a 40 g column using the ISCO Companion flash system eluting with methanol/ethyl acetate (5:95 to 10:90) to provide the title compound.

reactant | 1-(2-bromo-4-nitrophenyl)-4-methylpiperazine | 2.70 mmol, 0.810 g | BrC1=C(C=CC(=C1)[N+](=O)[O-])N1CCN(CC1)C | C11H14BrN3O2
reactant | tributyl(prop-1-en-2-yl)stannane | 2.97 mmol, 0.983 g | C(CCC)[Sn](C(=C)C)(CCCC)CCCC
solvent | 1,4-dioxane | 30 mL | O1CCOCC1 | C4H8O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.081 mmol, 0.094 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 1-methyl-4-(4-nitro-2-(prop-1-en-2-yl)phenyl)piperazine | CN1CCN(CC1)C1=C(C=C(C=C1)[N+](=O)[O-])C(=C)C | C14H19N3O2
